US08623859B2
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-(4-pyrimidin-5-ylbenzyl)furan-3-carboxamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (75 mg, 0.21 mmol), CDI (41 mg, 0.25 mmol) and N-methyl-1-[4-(pyrimidin-5-yl)phenyl]methanamine (42 mg, 0.21 mmol) in THF (4.5 mL) and DMF (0.6 mL). The crude product was purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.21 mmol, 75 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.25 mmol, 41 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-methyl-1-[4-(pyrimidin-5-yl)phenyl]methanamine | 0.21 mmol, 42 mg | CNCC1=CC=C(C=C1)C=1C=NC=NC1 | C12H13N3
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-(4-pyrimidin-5-ylbenzyl)furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(CC1=CC=C(C=C1)C=1C=NC=NC1)C)C | C28H30N4O5S
